US06420381B1
Preparation of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-4-(3-piperdinopropoxy)-phenyl]urea:
To a solution of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-hydroxyphenyl)urea(254 mg, 0.47 mmol) in DMF (7 ml) are added successively potassium carbonate (193 mg, 1.40 mmol), potassium iodide (39 mg, 0.23 mmol), 1-(3-chloropropyl)piperidine hydrochloride (111 mg, 0.56 mmol) at room temperature, and the mixture is stirred at about 45° C. for 5 hours. To the mixture is added water, and the mixture is extracted with ethyl acetate. The extract is washed with water and a saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (ethyl acetate:hexane=3:2→3% ethanol/ethyl acetate) to give the title compound (168 mg, 0.25 mmol) as amorphous.

reactant | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-hydroxyphenyl)urea | 0.47 mmol, 254 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)O)C(C)C)=O | C32H38N4O4
reactant | potassium carbonate | 1.40 mmol, 193 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.23 mmol, 39 mg | [I-].[K+]
reactant | 1-(3-chloropropyl)piperidine hydrochloride | 0.56 mmol, 111 mg | Cl.ClCCCN1CCCCC1
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-4-(3-piperdinopropoxy)-phenyl]urea | 0.25 mmol, 168 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)OCCCN1CCCCC1)C(C)C)=O | C40H53N5O4
